US08895580B2
Step 1: Preparation of ethyl 2-oxo-1-phenylpiperidine-4-carboxylate
Ethyl 2-oxopiperidine-4-carboxylate (0.50 g, 2.9 mmol), iodobenzene (0.77 g, 3.8 mmol, 1.3 equiv), copper(I) iodide (56 mg, 0.29 mmol, 0.1 equiv), 4,7-bis(methoxy)-1,10-phenanthroline (70 mg, 0109 mmol, 0.1 equiv) and potassium carbonate (0.40 g, 3.8 mmol, 1 equiv) were combined in dimethylsulfoxide (10 mL) and placed into a preheated oil bath at 100° C. for 120 hours. The mixture was cooled to ambient temperature, diluted with ethyl acetate (50 mL) and washed with water (2×25 mL) and once with brine (25 mL). The organic extract was dried with sodium sulfate, filtered and concentrated in vacuo, providing the titled compound.

reactant | Ethyl 2-oxopiperidine-4-carboxylate | 2.9 mmol, 0.50 g | O=C1NCCC(C1)C(=O)OCC | C8H13NO3
reactant | iodobenzene | 3.8 mmol, 0.77 g, 1.3 equiv | IC1=CC=CC=C1 | C6H5I
reactant | 4,7-bis(methoxy)-1,10-phenanthroline | 70 mg, 0.1 equiv | COC1=CC=NC2=C3N=CC=C(C3=CC=C12)OC | C14H12N2O2
reactant | potassium carbonate | 3.8 mmol, 0.40 g, 1 equiv | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylsulfoxide | 10 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
catalyst | copper(I) iodide | 0.29 mmol, 56 mg, 0.1 equiv | [Cu]I
product | ethyl 2-oxo-1-phenylpiperidine-4-carboxylate | O=C1N(CCC(C1)C(=O)OCC)C1=CC=CC=C1 | C14H17NO3
